US06376515B2
To a lotion of the compound of N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-methylphenyl}(4-cyanophenyl)carboxamide (830 mg, 2.1 mmol) in anhydrous methanol (5 ml) and ethyl acetate (10 ml) was saturated with hydrogen chloride gas at 0° C. The mixture was stirred at r.t. overnight. After the evaporated the solvent, the residue was dissolved in anhydrous methanol (5 ml) and N-methylethylenediamine (0.926 ml, 1 0.5 mmol) was added. The mixture was stirred under reflux condition for 2 hrs. After the evaporation of solvent, the crude residue was purified by RP-HPLC to give N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-methylphenyl}[4-(1-methyl(2-imidazolin-2-yl))phenyl]carboxamide as a white powder. MS found for C24H22ClN5O2 M+=448, (M+2)+=450.

reactant | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-methylphenyl}(4-cyanophenyl)carboxamide | 2.1 mmol, 830 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)C)NC(=O)C1=CC=C(C=C1)C#N | C21H15ClN4O2
reactant | hydrogen chloride | Cl | ClH
reactant | N-methylethylenediamine | 0.5 mmol, 0.926 ml | CNCCN | C3H10N2
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-methylphenyl}[4-(1-methyl(2-imidazolin-2-yl))phenyl]carboxamide | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)C)NC(=O)C1=CC=C(C=C1)C=1N(CCN1)C | C24H22ClN5O2
